US09399640B2
Step 2. 4-[4-(2,4-Difluorophenoxy)-1H-1,2,3-benzotriazol-5-yl]-6-methyl-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one
A solution of 4-[4-(2,4-difluorophenoxy)-1H-1,2,3-benzotriazol-5-yl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one (32 mg, 0.058 mmol) in ethanol (3.4 mL) was treated with 3.0 M sodium hydroxide in water (195 μL, 0.584 mmol) and stirred at 20° C. for 15 h. The reaction mixture was purified via preparative LCMS (XBridge C18 column, eluting with a gradient of acetonitrile/water 0.1% ammonium hydroxide, at flow rate of 60 mL/min) to give the desired product (13 mg, 56%). 1H NMR (400 MHz, DMSO-d6) δ 12.05 (s, 1H), 7.77 (br s, 1H), 7.53 (d, J=8.5 Hz, 1H), 7.37-7.19 (m, 3H), 6.77 (br s, 2H), 6.23-6.07 (m, 1H), 3.50 (s, 3H); LCMS calculated for C20H14F2N5O2 (M+H)+: m/z=394.1. found: 394.0.

reactant | 4-[4-(2,4-difluorophenoxy)-1H-1,2,3-benzotriazol-5-yl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | 0.058 mmol, 32 mg | FC1=C(OC2=C(C=CC=3NN=NC32)C=3C2=C(C(N(C3)C)=O)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)C=CC(=C1)F | C27H19F2N5O4S
reactant | sodium hydroxide | 3.0 M | [OH-].[Na+]
reactant | water | 0.584 mmol, 195 μL | O | H2O
solvent | ethanol | 3.4 mL | C(C)O | C2H6O
product | 4-[4-(2,4-Difluorophenoxy)-1H-1,2,3-benzotriazol-5-yl]-6-methyl-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | 13 mg, 56% | FC1=C(OC2=C(C=CC=3NN=NC32)C=3C2=C(C(N(C3)C)=O)NC=C2)C=CC(=C1)F | C20H13F2N5O2
